* Z:\home\william\grad_school\glesener\umn-detector-development\grips-piggyback\grimpress-spice-simulations\spice\sipm-delay-line\sipm-xrlines.asc
Cd N006 N008 120f
Rq N004 N006 475k
I§microcell N008 N006 PULSE(0 500u 1u 3n 3n 4n 2u 10000)
C1 N004 N006 60f
Cd1 N007 N008 2.28n
Rq1 N004 N007 25
C3 N004 N007 1.14n
C4 N004 N008 30p
V1 N008 0 28
V4 0 vn 2.5
V5 vp 0 2.5
R3 amplified N001 20
XX1 N005 N003 10ns-delay
R4 N002 diffd 500
R6 N003 0 500
R2 amplified N002 25
R5 amplified N005 25
V2 N004 N001 -2
C2 amplified N001 400p
XU1 0 N001 amplified vp vn vp LTC6268-10
XU2 N003 N002 diffd vp vn vp LTC6268
I1 0 N004 PWL file=pwl/noise.pwl
XU3 NC_01 NC_02 NC_03 NC_04 NC_05 NC_06 LTC6268-10

* block symbol definitions
.subckt 10ns-delay in+ out+
L1 N001 in+ 1.89n
C1 N001 0 0.755p
L2 N002 N001 1.89n
C2 N002 0 0.755p
L3 N003 N002 1.89n
C3 N003 0 0.755p
L4 N004 N003 1.89n
C4 N004 0 0.755p
L5 N005 N004 1.89n
C5 N005 0 0.755p
L6 N006 N005 1.89n
C6 N006 0 0.755p
L7 N007 N006 1.89n
C7 N007 0 0.755p
L8 N008 N007 1.89n
C8 N008 0 0.755p
L9 N009 N008 1.89n
C9 N009 0 0.755p
L10 N010 N009 1.89n
C10 N010 0 0.755p
L11 N011 N010 1.89n
C11 N011 0 0.755p
L12 N012 N011 1.89n
C12 N012 0 0.755p
L13 N013 N012 1.89n
C13 N013 0 0.755p
L14 N014 N013 1.89n
C14 N014 0 0.755p
L15 N015 N014 1.89n
C15 N015 0 0.755p
L16 N016 N015 1.89n
C16 N016 0 0.755p
L17 N017 N016 1.89n
C17 N017 0 0.755p
L18 N018 N017 1.89n
C18 N018 0 0.755p
L19 N019 N018 1.89n
C19 N019 0 0.755p
L20 N020 N019 1.89n
C20 N020 0 0.755p
L21 N021 N020 1.89n
C21 N021 0 0.755p
L22 N022 N021 1.89n
C22 N022 0 0.755p
L23 N023 N022 1.89n
C23 N023 0 0.755p
L24 N024 N023 1.89n
C24 N024 0 0.755p
L25 N025 N024 1.89n
C25 N025 0 0.755p
L26 N026 N025 1.89n
C26 N026 0 0.755p
L27 N027 N026 1.89n
C27 N027 0 0.755p
L28 N028 N027 1.89n
C28 N028 0 0.755p
L29 N029 N028 1.89n
C29 N029 0 0.755p
L30 N030 N029 1.89n
C30 N030 0 0.755p
L31 N031 N030 1.89n
C31 N031 0 0.755p
L32 N032 N031 1.89n
C32 N032 0 0.755p
L33 N033 N032 1.89n
C33 N033 0 0.755p
L34 N034 N033 1.89n
C34 N034 0 0.755p
L35 N035 N034 1.89n
C35 N035 0 0.755p
L36 N036 N035 1.89n
C36 N036 0 0.755p
L37 N037 N036 1.89n
C37 N037 0 0.755p
L38 N038 N037 1.89n
C38 N038 0 0.755p
L39 N039 N038 1.89n
C39 N039 0 0.755p
L40 N040 N039 1.89n
C40 N040 0 0.755p
L41 N041 N040 1.89n
C41 N041 0 0.755p
L42 N042 N041 1.89n
C42 N042 0 0.755p
L43 N043 N042 1.89n
C43 N043 0 0.755p
L44 N044 N043 1.89n
C44 N044 0 0.755p
L45 N045 N044 1.89n
C45 N045 0 0.755p
L46 N046 N045 1.89n
C46 N046 0 0.755p
L47 N047 N046 1.89n
C47 N047 0 0.755p
L48 N048 N047 1.89n
C48 N048 0 0.755p
L49 N049 N048 1.89n
C49 N049 0 0.755p
L50 N050 N049 1.89n
C50 N050 0 0.755p
L51 N051 N050 1.89n
C51 N051 0 0.755p
L52 N052 N051 1.89n
C52 N052 0 0.755p
L53 N053 N052 1.89n
C53 N053 0 0.755p
L54 N054 N053 1.89n
C54 N054 0 0.755p
L55 N055 N054 1.89n
C55 N055 0 0.755p
L56 N056 N055 1.89n
C56 N056 0 0.755p
L57 N057 N056 1.89n
C57 N057 0 0.755p
L58 N058 N057 1.89n
C58 N058 0 0.755p
L59 N059 N058 1.89n
C59 N059 0 0.755p
L60 N060 N059 1.89n
C60 N060 0 0.755p
L61 N061 N060 1.89n
C61 N061 0 0.755p
L62 N062 N061 1.89n
C62 N062 0 0.755p
L63 N063 N062 1.89n
C63 N063 0 0.755p
L64 N064 N063 1.89n
C64 N064 0 0.755p
L65 N065 N064 1.89n
C65 N065 0 0.755p
L66 N066 N065 1.89n
C66 N066 0 0.755p
L67 N067 N066 1.89n
C67 N067 0 0.755p
L68 N068 N067 1.89n
C68 N068 0 0.755p
L69 N069 N068 1.89n
C69 N069 0 0.755p
L70 N070 N069 1.89n
C70 N070 0 0.755p
L71 N071 N070 1.89n
C71 N071 0 0.755p
L72 N072 N071 1.89n
C72 N072 0 0.755p
L73 N073 N072 1.89n
C73 N073 0 0.755p
L74 N074 N073 1.89n
C74 N074 0 0.755p
L75 N075 N074 1.89n
C75 N075 0 0.755p
L76 N076 N075 1.89n
C76 N076 0 0.755p
L77 N077 N076 1.89n
C77 N077 0 0.755p
L78 N078 N077 1.89n
C78 N078 0 0.755p
L79 N079 N078 1.89n
C79 N079 0 0.755p
L80 N080 N079 1.89n
C80 N080 0 0.755p
L81 N081 N080 1.89n
C81 N081 0 0.755p
L82 N082 N081 1.89n
C82 N082 0 0.755p
L83 N083 N082 1.89n
C83 N083 0 0.755p
L84 N084 N083 1.89n
C84 N084 0 0.755p
L85 N085 N084 1.89n
C85 N085 0 0.755p
L86 N086 N085 1.89n
C86 N086 0 0.755p
L87 N087 N086 1.89n
C87 N087 0 0.755p
L88 N088 N087 1.89n
C88 N088 0 0.755p
L89 N089 N088 1.89n
C89 N089 0 0.755p
L90 N090 N089 1.89n
C90 N090 0 0.755p
L91 N091 N090 1.89n
C91 N091 0 0.755p
L92 N092 N091 1.89n
C92 N092 0 0.755p
L93 N093 N092 1.89n
C93 N093 0 0.755p
L94 N094 N093 1.89n
C94 N094 0 0.755p
L95 N095 N094 1.89n
C95 N095 0 0.755p
L96 N096 N095 1.89n
C96 N096 0 0.755p
L97 N097 N096 1.89n
C97 N097 0 0.755p
L98 N098 N097 1.89n
C98 N098 0 0.755p
L99 N099 N098 1.89n
C99 N099 0 0.755p
L100 N100 N099 1.89n
C100 N100 0 0.755p
L101 N101 N100 1.89n
C101 N101 0 0.755p
L102 N102 N101 1.89n
C102 N102 0 0.755p
L103 N103 N102 1.89n
C103 N103 0 0.755p
L104 N104 N103 1.89n
C104 N104 0 0.755p
L105 N105 N104 1.89n
C105 N105 0 0.755p
L106 N106 N105 1.89n
C106 N106 0 0.755p
L107 N107 N106 1.89n
C107 N107 0 0.755p
L108 N108 N107 1.89n
C108 N108 0 0.755p
L109 N109 N108 1.89n
C109 N109 0 0.755p
L110 N110 N109 1.89n
C110 N110 0 0.755p
L111 N111 N110 1.89n
C111 N111 0 0.755p
L112 N112 N111 1.89n
C112 N112 0 0.755p
L113 N113 N112 1.89n
C113 N113 0 0.755p
L114 N114 N113 1.89n
C114 N114 0 0.755p
L115 N115 N114 1.89n
C115 N115 0 0.755p
L116 N116 N115 1.89n
C116 N116 0 0.755p
L117 N117 N116 1.89n
C117 N117 0 0.755p
L118 N118 N117 1.89n
C118 N118 0 0.755p
L119 N119 N118 1.89n
C119 N119 0 0.755p
L120 N120 N119 1.89n
C120 N120 0 0.755p
L121 N121 N120 1.89n
C121 N121 0 0.755p
L122 N122 N121 1.89n
C122 N122 0 0.755p
L123 N123 N122 1.89n
C123 N123 0 0.755p
L124 N124 N123 1.89n
C124 N124 0 0.755p
L125 N125 N124 1.89n
C125 N125 0 0.755p
L126 N126 N125 1.89n
C126 N126 0 0.755p
L127 N127 N126 1.89n
C127 N127 0 0.755p
L128 N128 N127 1.89n
C128 N128 0 0.755p
L129 N129 N128 1.89n
C129 N129 0 0.755p
L130 N130 N129 1.89n
C130 N130 0 0.755p
L131 N131 N130 1.89n
C131 N131 0 0.755p
L132 N132 N131 1.89n
C132 N132 0 0.755p
L133 N133 N132 1.89n
C133 N133 0 0.755p
L134 N134 N133 1.89n
C134 N134 0 0.755p
L135 N135 N134 1.89n
C135 N135 0 0.755p
L136 N136 N135 1.89n
C136 N136 0 0.755p
L137 N137 N136 1.89n
C137 N137 0 0.755p
L138 N138 N137 1.89n
C138 N138 0 0.755p
L139 N139 N138 1.89n
C139 N139 0 0.755p
L140 N140 N139 1.89n
C140 N140 0 0.755p
L141 N141 N140 1.89n
C141 N141 0 0.755p
L142 N142 N141 1.89n
C142 N142 0 0.755p
L143 N143 N142 1.89n
C143 N143 0 0.755p
L144 N144 N143 1.89n
C144 N144 0 0.755p
L145 N145 N144 1.89n
C145 N145 0 0.755p
L146 N146 N145 1.89n
C146 N146 0 0.755p
L147 N147 N146 1.89n
C147 N147 0 0.755p
L148 N148 N147 1.89n
C148 N148 0 0.755p
L149 N149 N148 1.89n
C149 N149 0 0.755p
L150 N150 N149 1.89n
C150 N150 0 0.755p
L151 N151 N150 1.89n
C151 N151 0 0.755p
L152 N152 N151 1.89n
C152 N152 0 0.755p
L153 N153 N152 1.89n
C153 N153 0 0.755p
L154 N154 N153 1.89n
C154 N154 0 0.755p
L155 N155 N154 1.89n
C155 N155 0 0.755p
L156 N156 N155 1.89n
C156 N156 0 0.755p
L157 N157 N156 1.89n
C157 N157 0 0.755p
L158 N158 N157 1.89n
C158 N158 0 0.755p
L159 N159 N158 1.89n
C159 N159 0 0.755p
L160 N160 N159 1.89n
C160 N160 0 0.755p
L161 N161 N160 1.89n
C161 N161 0 0.755p
L162 N162 N161 1.89n
C162 N162 0 0.755p
L163 N163 N162 1.89n
C163 N163 0 0.755p
L164 N164 N163 1.89n
C164 N164 0 0.755p
L165 N165 N164 1.89n
C165 N165 0 0.755p
L166 N166 N165 1.89n
C166 N166 0 0.755p
L167 N167 N166 1.89n
C167 N167 0 0.755p
L168 N168 N167 1.89n
C168 N168 0 0.755p
L169 N169 N168 1.89n
C169 N169 0 0.755p
L170 N170 N169 1.89n
C170 N170 0 0.755p
L171 N171 N170 1.89n
C171 N171 0 0.755p
L172 N172 N171 1.89n
C172 N172 0 0.755p
L173 N173 N172 1.89n
C173 N173 0 0.755p
L174 N174 N173 1.89n
C174 N174 0 0.755p
L175 N175 N174 1.89n
C175 N175 0 0.755p
L176 N176 N175 1.89n
C176 N176 0 0.755p
L177 N177 N176 1.89n
C177 N177 0 0.755p
L178 N178 N177 1.89n
C178 N178 0 0.755p
L179 N179 N178 1.89n
C179 N179 0 0.755p
L180 N180 N179 1.89n
C180 N180 0 0.755p
L181 N181 N180 1.89n
C181 N181 0 0.755p
L182 N182 N181 1.89n
C182 N182 0 0.755p
L183 N183 N182 1.89n
C183 N183 0 0.755p
L184 N184 N183 1.89n
C184 N184 0 0.755p
L185 N185 N184 1.89n
C185 N185 0 0.755p
L186 N186 N185 1.89n
C186 N186 0 0.755p
L187 N187 N186 1.89n
C187 N187 0 0.755p
L188 N188 N187 1.89n
C188 N188 0 0.755p
L189 N189 N188 1.89n
C189 N189 0 0.755p
L190 N190 N189 1.89n
C190 N190 0 0.755p
L191 N191 N190 1.89n
C191 N191 0 0.755p
L192 N192 N191 1.89n
C192 N192 0 0.755p
L193 N193 N192 1.89n
C193 N193 0 0.755p
L194 N194 N193 1.89n
C194 N194 0 0.755p
L195 N195 N194 1.89n
C195 N195 0 0.755p
L196 N196 N195 1.89n
C196 N196 0 0.755p
L197 N197 N196 1.89n
C197 N197 0 0.755p
L198 N198 N197 1.89n
C198 N198 0 0.755p
L199 N199 N198 1.89n
C199 N199 0 0.755p
L200 N200 N199 1.89n
C200 N200 0 0.755p
L201 N201 N200 1.89n
C201 N201 0 0.755p
L202 N202 N201 1.89n
C202 N202 0 0.755p
L203 N203 N202 1.89n
C203 N203 0 0.755p
L204 N204 N203 1.89n
C204 N204 0 0.755p
L205 N205 N204 1.89n
C205 N205 0 0.755p
L206 N206 N205 1.89n
C206 N206 0 0.755p
L207 N207 N206 1.89n
C207 N207 0 0.755p
L208 N208 N207 1.89n
C208 N208 0 0.755p
L209 N209 N208 1.89n
C209 N209 0 0.755p
L210 N210 N209 1.89n
C210 N210 0 0.755p
L211 N211 N210 1.89n
C211 N211 0 0.755p
L212 N212 N211 1.89n
C212 N212 0 0.755p
L213 N213 N212 1.89n
C213 N213 0 0.755p
L214 N214 N213 1.89n
C214 N214 0 0.755p
L215 N215 N214 1.89n
C215 N215 0 0.755p
L216 N216 N215 1.89n
C216 N216 0 0.755p
L217 N217 N216 1.89n
C217 N217 0 0.755p
L218 N218 N217 1.89n
C218 N218 0 0.755p
L219 N219 N218 1.89n
C219 N219 0 0.755p
L220 N220 N219 1.89n
C220 N220 0 0.755p
L221 N221 N220 1.89n
C221 N221 0 0.755p
L222 N222 N221 1.89n
C222 N222 0 0.755p
L223 N223 N222 1.89n
C223 N223 0 0.755p
L224 N224 N223 1.89n
C224 N224 0 0.755p
L225 N225 N224 1.89n
C225 N225 0 0.755p
L226 N226 N225 1.89n
C226 N226 0 0.755p
L227 N227 N226 1.89n
C227 N227 0 0.755p
L228 N228 N227 1.89n
C228 N228 0 0.755p
L229 N229 N228 1.89n
C229 N229 0 0.755p
L230 N230 N229 1.89n
C230 N230 0 0.755p
L231 N231 N230 1.89n
C231 N231 0 0.755p
L232 N232 N231 1.89n
C232 N232 0 0.755p
L233 N233 N232 1.89n
C233 N233 0 0.755p
L234 N234 N233 1.89n
C234 N234 0 0.755p
L235 N235 N234 1.89n
C235 N235 0 0.755p
L236 N236 N235 1.89n
C236 N236 0 0.755p
L237 N237 N236 1.89n
C237 N237 0 0.755p
L238 N238 N237 1.89n
C238 N238 0 0.755p
L239 N239 N238 1.89n
C239 N239 0 0.755p
L240 N240 N239 1.89n
C240 N240 0 0.755p
L241 N241 N240 1.89n
C241 N241 0 0.755p
L242 N242 N241 1.89n
C242 N242 0 0.755p
L243 N243 N242 1.89n
C243 N243 0 0.755p
L244 N244 N243 1.89n
C244 N244 0 0.755p
L245 N245 N244 1.89n
C245 N245 0 0.755p
L246 N246 N245 1.89n
C246 N246 0 0.755p
L247 N247 N246 1.89n
C247 N247 0 0.755p
L248 N248 N247 1.89n
C248 N248 0 0.755p
L249 N249 N248 1.89n
C249 N249 0 0.755p
L250 N250 N249 1.89n
C250 N250 0 0.755p
L251 N251 N250 1.89n
C251 N251 0 0.755p
L252 N252 N251 1.89n
C252 N252 0 0.755p
L253 N253 N252 1.89n
C253 N253 0 0.755p
L254 N254 N253 1.89n
C254 N254 0 0.755p
L255 N255 N254 1.89n
C255 N255 0 0.755p
L256 out+ N255 1.89n
C256 out+ 0 0.755p
.ends 10ns-delay

.tran 0 500u 0 0.1n
* SiPM DC offset (~2V)
* SiPM bias voltage (~28 V)
.lib LTC2.lib
.backanno
.end
